US07067540B2
Step 1: Preparation of 4-nitrophenyl 3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]benzylcarbamate.
1-[3-(aminomethyl)phenyl]-3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (1.08 g, 2.48 mmol) was suspended in dichloromethane (7.5 mL). Pyridine was added (0.222 mL, 2.74 mmol). After stirring for 10 minutes at room temperature, a stock solution of 4-nitrophenyl chloroformate (5.0 mL, 0.50 M) in dichloromethane was added dropwise. After stirring for 4.5 hours at room temperature, a stock solution of 4-nitrophenyl chloroformate (2.5 mL, 0.50 M) in dichloromethane was again added dropwise and stirring continued at room temperature overnight. The reaction mixture was concentrated and subjected to chromatography (silica gel, ethyl acetate with 10% methanol/hexanes) afforded a yellow solid (0.85 g, 57%).

reactant | 1-[3-(aminomethyl)phenyl]-3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 2.48 mmol, 1.08 g | NCC=1C=C(C=CC1)N1C(C(=C(C=C1C)OCC1=C(C=C(C=C1)F)F)Br)=O | C20H17BrF2N2O2
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 0.50 M, 5.0 mL | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-nitrophenyl chloroformate | 0.50 M, 2.5 mL | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
product | 4-nitrophenyl 3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]benzylcarbamate | 0.85 g, 57% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(CNC(OC2=CC=C(C=C2)[N+](=O)[O-])=O)C=CC1)=O | C27H20BrF2N3O6
